US06355658B1
Synthesis of Ethyl 6-phenylthiomethyl-2-oxo-2H-1-benzopyran-3-carboxylate (Ie1) (Intermediate)
A mixture of 1 g of ethyl 6-chloromethyl-2-oxo-2H-1-benzopyran-3-carboxylate (3.75 mmol), 0.57 g of potassium carbonate (4.13 mmol), 2.07 g of thiophenol (18.75 mmol) and 10 ml of absolute ethanol is reflux for 3 h. After removal of the solvent by distillation under reduced pressure, the residue is taken up in chloroform. The organic phase is washed with water and then dried over MgSO4. The solvent is removed by distillation under reduced pressure and the residue is washed with hexane to remove the excess thiophenol. The title product is recrystallized from ethyl acetate/petroleum ether.

reactant | ethyl 6-chloromethyl-2-oxo-2H-1-benzopyran-3-carboxylate | 3.75 mmol, 1 g | ClCC=1C=CC2=C(C=C(C(O2)=O)C(=O)OCC)C1 | C13H11ClO4
reactant | potassium carbonate | 4.13 mmol, 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 18.75 mmol, 2.07 g | C1(=CC=CC=C1)S | C6H6S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 6-phenylthiomethyl-2-oxo-2H-1-benzopyran-3-carboxylate | C1(=CC=CC=C1)SCC=1C=CC2=C(C=C(C(O2)=O)C(=O)OCC)C1 | C19H16O4S
